US07795247B2
Step 2: 14-cyclohexyl-6-[(1-methyl-1H-pyrazol-4-yl)methyl]-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylic acid
BBr3 (5 eq, 1 M sol. in CH2Cl2) was added to a solution of methyl 14-cyclohexyl-6-[(1-methyl-1H-pyrazol-4-yl)methyl]-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate in CH2Cl2 (0.06 M), and the mixture stirred at RT for 40 mins. The volatiles were removed in vacuo. The crude was then purified by prep RP-HPLC (stationary phase: column Waters XTERRA prep. C18, 5 um, 19×150 mm. Mobile phase: MeCN/H2O buffered with 0.1% TFA). Fractions containing the pure compound were combined and freeze dried to afford the title compound as a white powder in a 7% yield (over two steps).

reactant | BBr3 | 1 M, 5 eq | B(Br)(Br)Br | BBr3
reactant | methyl 14-cyclohexyl-6-[(1-methyl-1H-pyrazol-4-yl)methyl]-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylate | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)CC=2C=NN(C2)C)C=CC=C1)C(=O)OC | C30H34N4O2
solvent | CH2Cl2 | 0.06 M | C(Cl)Cl | CH2Cl2
product | 14-cyclohexyl-6-[(1-methyl-1H-pyrazol-4-yl)methyl]-5,6,7,8-tetrahydroindolo[2,1-a][2,5]benzodiazocine-11-carboxylic acid | 7% yield | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C1=C(CN(CC2)CC=2C=NN(C2)C)C=CC=C1)C(=O)O | C29H32N4O2
